US07414063B2
[2-(2-Benzyl-phenoxy)-ethyl]-{2-[(isoquinoline-5-sulfonyl)-methyl-amino]-ethyl}-carbamic acid tert-butyl ester
Powdered K2CO3 (50.4 mg, 0.365 mmol) is added to a stirred solution of [2-(2-benzyl-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester (82.0 mg, 0.146 mmol) and CH3I (18.2 μL, 0.292 mmol) in anhydrous DMF (1 mL) at ambient temperature under nitrogen. The resultant solution is stirred for 2 hours. The mixture is diluted with EtOAc (10 mL), washed with water (5 mL×3), dried over MgSO4, filtered and concentrated. The crude product is chromatographed on silica (gradient 0-5% CH3OH in CH2Cl2) to give 65 mg (0.11 mmol, 77% yield) of the title compound as a gum. ESIMS: m/z 576 (M+H)+.

reactant | K2CO3 | 0.365 mmol, 50.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | [2-(2-benzyl-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 0.146 mmol, 82.0 mg | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOC1=C(C=CC=C1)CC1=CC=CC=C1)=O | C31H35N3O5S
reactant | CH3I | 0.292 mmol, 18.2 μL | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | [2-(2-Benzyl-phenoxy)-ethyl]-{2-[(isoquinoline-5-sulfonyl)-methyl-amino]-ethyl}-carbamic acid tert-butyl ester | 0.11 mmol, 65 mg, 77% yield | C(C)(C)(C)OC(N(CCN(C)S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOC1=C(C=CC=C1)CC1=CC=CC=C1)=O | C32H37N3O5S
